US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-(3-{[(2-methoxyethyl)(methyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
Method as for preparation 5 using tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate (preparation 177) (367 mg, 0.72 mmol) and 2-methoxyethylmethyl amine (130 mg, 1.45 mmol) as starting materials.

reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | 0.72 mmol, 367 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
reactant | 2-methoxyethylmethyl amine | 1.45 mmol, 130 mg | COCCNC | C4H11NO
product | tert-butyl (3R)-6-cyclohexyl-3-(3-{[(2-methoxyethyl)(methyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CN(C)CCOC | C23H41N3O4
